US06468998B1
3-Anilino-1-benzylpyrrolidine (1.2 g) was dissolved in ethanol (20 ml), 10% palladium-carbon (0.5 g) was added thereto. The mixture was stirred at room temperature, and hydrazine monohydrate (0.24 g) was added. The mixture was stirred under heating for 2 hours and cooled to room temperature. 10% Palladium-carbon was filtered off with celite, and the filtrate was concentrated to give 3-anilinopyrrolidine (0.67 g).

reactant | 3-Anilino-1-benzylpyrrolidine | 1.2 g | N(C1=CC=CC=C1)C1CN(CC1)CC1=CC=CC=C1 | C17H20N2
reactant | hydrazine monohydrate | 0.24 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 3-anilinopyrrolidine | 0.67 g | N(C1=CC=CC=C1)C1CNCC1 | C10H14N2
